.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=27e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=27e-6 L=1e-6
M3 net_2 net_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M4 net_0 net_0 net_2 net_2 nmos W=1e-6 L=1e-6
M5 net_3 net_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M6 outfirststage net_0 net_3 net_3 nmos W=1e-6 L=1e-6
M7 net_4 bias_p_2b source_pmos source_pmos pmos W=3e-6 L=1e-6
M8 net_1 ibias net_4 net_4 pmos W=3e-6 L=1e-6
M9 net_7 bias_p_2b source_pmos source_pmos pmos W=3e-6 L=1e-6
M10 out ibias net_7 net_7 pmos W=3e-6 L=1e-6
M11 net_10 outfirststage source_nmos source_nmos nmos W=1e-6 L=1e-6
M12 out bias_n_1 net_10 net_10 nmos W=2e-6 L=1e-6
M13 bias_n_1 bias_n_1 source_nmos source_nmos nmos W=1e-6 L=1e-6
M14 bias_p_2b bias_p_2b source_pmos source_pmos pmos W=3e-6 L=1e-6
M15 ibias ibias bias_p_2b bias_p_2b pmos W=3e-6 L=1e-6
M16 bias_n_1 bias_p_2b source_pmos source_pmos pmos W=3e-6 L=1e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
